US05318966
5.0 g (0.0191 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 100 ml of toluene, 3.0 ml (0.0191 mol) of 4-phenyl-butylamine were added thereto and the mixture was boiled for 16 hours on a water separator. After concentration the residue was hydrogenated with 2.0 g of Raney-nickel in 200 ml of ethanol at 120° and 140 bar for 10 hours. The product was chromatographed over silica gel with n-hexane/ethyl acetate 3:1. There were obtained 5.60 g (82.5%) of oily rac-cis-3-(4-cyclohexyl-butyl)-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.0191 mol, 5.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 4-phenyl-butylamine | 0.0191 mol, 3.0 ml | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-3-(4-cyclohexyl-butyl)-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 5.60 g, 82.5% | C1(CCCCC1)CCCCN1C(C[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC)=O | C23H33NO2
